### PR TITLE
Introduce ProverHint as a concrete hashmap for runtime prover hints

### PR DESCRIPTION
**Pull request by pirapira**
## Summary

Introduces `ProverHint (F : Type)` as a concrete hashmap type — same shape as `ProverData`, distinct name to preserve the committed-vs-ephemeral semantic split — and threads it through the Circuit framework *as a value*, not a type parameter.

\`\`\`lean
def ProverHint (F : Type) := String → (n : ℕ) → Array (Vector F n)
\`\`\`

Circuits that need a hint read it at witness-generation time via `(hint "key" n).getD idx default`, exactly the way `readRow` already worked in ragu before this refactor began. The motivation (from ragu's `zksec/clean-integration` branch): `ProverData` is *committed* data that's part of the proof, so we need a distinct type for runtime-only honest-prover hints.

## Design (confirmed with user)

- **Separate argument** for the hint, not embedded in `Environment`. Witness compute callbacks stay two-argument: `Environment F → ProverHint F → value F` — only the second arg's type changes from a Type variable to the concrete hashmap.
- **Distinct from `ProverData`**: same underlying shape, but defined as a separate `def ProverHint (F : Type) := …` so the semantic distinction is visible.

## What changed in the framework

Every framework structure loses its `(ProverHint : Type)` parameter:
`FlatOperation`, `Operation`, `NestedOperations`, `Subcircuit`, `Condition`, `Circuit`, `ElaboratedCircuit`, `FormalCircuit`, `FormalAssertion`, `DeterministicFormalCircuit`, `GeneralFormalCircuit`, `Witnessable`, `HasAssertEq`, `HasAssignEq`, `LookupCircuit`, `TableConstraint`, `TableContext`, `TableOperation`, `SingleRowConstraint`, `TwoRowsConstraint`, `FormalTable`, `InductiveTable`.

Completeness keeps `∀ hint, ...`; all `Environment.UsesLocalWitnessesCompleteness hint offset ops` / `ConstraintsHold.Completeness env hint ops` statements stay, just typed on the concrete `ProverHint F`.

`GeneralFormalCircuit.CompletenessSpec : Input F → Output F → ProverHint F → Prop` — still takes the hint, which downstream circuits (e.g. `DivNonzero` using `AllocMul`) rely on to relate subcircuit output wires to the specific hint the parent circuit chose.

`circuit_proof_start` tactic is unchanged — it still intros a `hint` binder.

## Gadgets / Tables / Examples

Every `variable {ProverHint : Type}` and `(ProverHint := ProverHint)` annotation is removed from `Clean/Gadgets/**`, `Clean/Circomlib/**`, `Clean/Examples/**`, `Clean/Tables/**`, `Clean/Utils/Tactics/CircuitProofStart.lean`, and the test file. Field-specific type annotations like `Environment (F p) → ProverHint → …` are now `Environment (F p) → ProverHint (F p) → …`.

## Related change on the ragu side

[zksecurity/ragu#7](https://github.com/zksecurity/ragu/pull/7) migrates `fv/lean` to the new API: circuits look up hints via `readRow`/`readElem` helpers, and the Rust codegen emits plain `Operations (F p)` modules again (partial revert of the earlier ProverHint-polymorphic emit).

## Verification

- [x] `lake build` → 1757 targets green
- [x] `lake build CleanTests` → 1670 targets green
- [x] `lake env lean --run backends/plonky3/tests/fixtures/FibTraceGen.lean 16 /tmp/t.json` → generates a trace successfully
- [x] `scripts/check-consecutive-empty-lines.py` passes (after `528680cc` removed a stray blank)

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

**Comment by mitschabaude** [comment]
can't we put ProverHints into the Environment? That would remove all the new unused arguments

**Comment by pirapira** [comment]
> can't we put ProverHints into the Environment? That would remove all the new unused arguments

I don't think so because the `Environment` is shared with the verifier.

File: backends/plonky3/tests/fixtures/FibTraceGen.lean [hunk 1]
```diff
@@ -12,7 +12,7 @@ def generateTrace (steps : ℕ) (output_path : String) : IO Unit := do
   let fib_relation_babybear := fibRelation (p:=pBabybear)
   let init_row : RowType (F pBabybear) := { x := 0, y := 1 }
 
-  let trace_data := witnesses fib_relation_babybear init_row steps
+  let trace_data := witnesses (fun _ _ => #[]) fib_relation_babybear init_row steps
```
Comment (pirapira) [inline backends/plonky3/tests/fixtures/FibTraceGen.lean]: This should be given a name like `dummyProverHint`.

File: Clean/Circomlib/Gates.lean [hunk 2]
```diff
@@ -321,7 +321,7 @@ def main : {n : ℕ} → Vector (Expression (F p)) n → Circuit (F p) (Expressi
 
 -- Helper lemma for localLength
 theorem localLength_eq (n : ℕ) (input : Var (fields n) (F p)) (offset : ℕ) :
-    (main input).localLength offset = n - 1 := by
+    (main  input).localLength offset = n - 1 := by
```
Comment (pirapira) [inline Clean/Circomlib/Gates.lean]: spurious diff

File: Clean/Circomlib/Gates.lean [hunk 3]
```diff
@@ -334,8 +334,8 @@ theorem localLength_eq (n : ℕ) (input : Var (fields n) (F p)) (offset : ℕ) :
     | 2 =>
       simp only [main]
       simp only [Nat.add_one_sub_one]
-      have h := AND.circuit.localLength_eq (input[0], input[1]) offset
-      rw [show AND.circuit.localLength _ = 1 from rfl] at h
+      have h := (AND.circuit ).localLength_eq (input[0], input[1]) offset
+      rw [show (AND.circuit ).localLength _ = 1 from rfl] at h
```
Comment (pirapira) [inline Clean/Circomlib/Gates.lean]: spurious diffs

File: Clean/Circomlib/Gates.lean [hunk 4]
```diff
@@ -354,18 +354,19 @@ theorem localLength_eq (n : ℕ) (input : Var (fields n) (F p)) (offset : ℕ) :
       simp only [IH _ h_n1_lt, IH _ h_n2_lt]
       simp only [Circuit.output]
       have h_and : ∀ (inp : Expression (F p) × Expression (F p)) (off : ℕ),
-        (AND.circuit.main inp).localLength off = 1 := by
+        ((AND.circuit ).main inp).localLength off = 1 := by
```
Comment (pirapira) [inline Clean/Circomlib/Gates.lean]: spurious diff

File: Clean/Circomlib/Gates.lean [hunk 5]
```diff
@@ -354,18 +354,19 @@ theorem localLength_eq (n : ℕ) (input : Var (fields n) (F p)) (offset : ℕ) :
...
         intro inp off
-        have := AND.circuit.localLength_eq inp off
-        rw [show AND.circuit.localLength _ = 1 from rfl] at this
+        have := (AND.circuit ).localLength_eq inp off
+        rw [show (AND.circuit ).localLength _ = 1 from rfl] at this
```
Comment (pirapira) [inline Clean/Circomlib/Gates.lean]: spurious diffs

File: Clean/Circomlib/Gates.lean [hunk 6]
```diff
@@ -354,18 +354,19 @@ theorem localLength_eq (n : ℕ) (input : Var (fields n) (F p)) (offset : ℕ) :
...
         exact this
 
       rw [h_and]
       conv => rhs; rw [← h_sum]
       omega
 
 -- Helper lemma: SubcircuitsConsistent preserved by bind
-theorem Circuit.subcircuitsConsistent_bind {α β : Type} (f : Circuit (F p) α) (g : α → Circuit (F p) β) (offset : ℕ)
+theorem Circuit.subcircuitsConsistent_bind {α β : Type}
+    (f : Circuit (F p) α) (g : α → Circuit (F p) β) (offset : ℕ)
```
Comment (pirapira) [inline Clean/Circomlib/Gates.lean]: spurious diff

File: Clean/Circomlib/Gates.lean [hunk 7]
```diff
@@ -376,7 +377,8 @@ theorem Circuit.subcircuitsConsistent_bind {α β : Type} (f : Circuit (F p) α)
 
 -- Helper theorem for subcircuitsConsistent
 theorem subcircuitsConsistent (n : ℕ) (input : Var (fields n) (F p)) (offset : ℕ) :
-    Operations.SubcircuitsConsistent offset ((main input).operations offset) := by
+    Operations.SubcircuitsConsistent offset
+      ((main  input).operations offset) := by
```
Comment (pirapira) [inline Clean/Circomlib/Gates.lean]: spurious diff

File: Clean/Circomlib/Gates.lean [hunk 8]
```diff
@@ -406,10 +408,11 @@ theorem subcircuitsConsistent (n : ℕ) (input : Var (fields n) (F p)) (offset :
...
 
 -- Helper lemma: UsesLocalWitnesses and UsesLocalWitnessesCompleteness are equivalent for MultiAND.main
-lemma main_usesLocalWitnesses_iff_completeness (n : ℕ) (input : Var (fields n) (F p)) (offset1 offset2 : ℕ) (env : Environment (F p)) :
+lemma main_usesLocalWitnesses_iff_completeness (n : ℕ) (input : Var (fields n) (F p))
+    (offset1 offset2 : ℕ) (env : Environment (F p)) :
     offset1 = offset2 ->
-    (env.UsesLocalWitnesses offset1 ((main input).operations offset2) ↔
-     env.UsesLocalWitnessesCompleteness offset1 ((main input).operations offset2)) := by
+    (env.UsesLocalWitnesses offset1 ((main  input).operations offset2) ↔
+     env.UsesLocalWitnessesCompleteness offset1 ((main  input).operations offset2)) := by
```
Comment (pirapira) [inline Clean/Circomlib/Gates.lean]: spurious diffs

File: Clean/Circomlib/Gates.lean [hunk 9]
```diff
@@ -613,11 +617,12 @@ lemma soundness_zero {p : ℕ} [Fact p.Prime]
...
 lemma soundness_one {p : ℕ} [Fact p.Prime]
-    (offset : ℕ) (env : Environment (F p)) (input_var : Var (fields 1) (F p))
+    (offset : ℕ) (env : VerifierEnvironment (F p)) (input_var : Var (fields 1) (F p))
     (input : fields 1 (F p)) (h_env : input = eval env input_var)
     (h_assumptions : Assumptions 1 input)
-    (_h_hold : Circuit.ConstraintsHold.Soundness env ((main input_var).operations offset)) :
-    Spec 1 input (env ((main input_var).output offset)) := by
+    (_h_hold : Circuit.ConstraintsHold.Soundness env
+      ((main  input_var).operations offset)) :
+    Spec 1 input (env ((main  input_var).output offset)) := by
```
Comment (pirapira) [inline Clean/Circomlib/Gates.lean]: spurious diff

File: Clean/Circuit/Basic.lean [hunk 10]
```diff
@@ -30,7 +30,8 @@ def Circuit (F : Type) [Field F] (α : Type) := ℕ → α × List (Operation F)
 namespace Circuit
 -- definition of the circuit monad
 
-def bind {α β} (f : Circuit F α) (g : α → Circuit F β) : Circuit F β := fun (n : ℕ) =>
+def bind {α β} (f : Circuit F α) (g : α → Circuit F β) :
+    Circuit F β := fun (n : ℕ) =>
```
Comment (mitschabaude) [inline Clean/Circuit/Basic.lean]: what generated these changes? would be nice to remove spurious changes like that since it creates churn in big unmerged PRs like #328 😅

Comment (pirapira) [reply Clean/Circuit/Basic.lean]: these are leftovers from adding an arg and then removing it. PR is a draft because of this.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 11]
```diff
@@ -29,16 +29,16 @@ The spec follows the pattern from the applyRounds function:
 -/
 def roundWithPermute : FormalCircuit (F p) Round.Inputs Round.Inputs where
   main := fun input => do
-    let state ← subcircuit Round.circuit input
-    let permuted_message ← subcircuit Permute.circuit input.message
+    let state ← subcircuit  Round.circuit input
+    let permuted_message ← subcircuit  Permute.circuit input.message
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: spaces added

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 12]
```diff
@@ -556,7 +556,7 @@ theorem completeness : Completeness (F p) elaborated Assumptions := by
   circuit_proof_start
 
   -- Use the helper lemma to prove normalization
-  apply initial_state_and_messages_are_normalized env
+  apply initial_state_and_messages_are_normalized env.toVerifierEnvironment
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: doesn't just `env` work in places like this?

File: Clean/Gadgets/Bits.lean [hunk 13]
```diff
@@ -29,25 +29,30 @@ def toBits (n : ℕ) (hn : 2^n < p) : GeneralFormalCircuit (F p) field (fields n
...
+    have h_eq' := h_eq
+    rw [show Expression.eval env (fieldFromBitsExpr (Vector.mapRange n fun i => var (F:=F p) ⟨i₀ + i⟩))
+          = fieldFromBits (Vector.map (Expression.eval env) (Vector.mapRange n fun i => var (F:=F p) ⟨i₀ + i⟩))
+        from fieldFromBits_eval _] at h_eq
+    have h_val : input.val < 2^n := by
+      rw [h_eq]
+      exact fieldFromBits_lt _ h_bits_vec
+    refine ⟨ h_val, ?_ ⟩
+    rw [h_eq]
+    exact (fieldToBits_fieldFromBits hn _ h_bits_vec).symm
```
Comment (mitschabaude) [inline Clean/Gadgets/Bits.lean]: move back to pretty old proof please

File: Clean/Tables/Fibonacci32.lean [hunk 14]
```diff
@@ -169,7 +169,7 @@ lemma boundary_vars (first_row : Row (F p) RowType) (aux_env : Environment (F p)
   and_intros <;> rfl
 
 lemma boundary_constraints (first_row : Row (F p) RowType) (aux_env : Environment (F p)) :
-  Circuit.ConstraintsHold.Soundness (windowEnv boundary ⟨<+> +> first_row, rfl⟩ aux_env) boundary.operations →
+  Circuit.ConstraintsHold.Soundness (windowEnv boundary ⟨<+> +> first_row, rfl⟩ aux_env).toVerifierEnvironment boundary.operations →
```
Comment (mitschabaude) [inline Clean/Tables/Fibonacci32.lean]: do we need all these `.toVerifierEnvironment`?

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 12 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: I'll experiment. there's `coe` that might do it.

File: backends/plonky3/tests/fixtures/FibTraceGen.lean (hunk 1 above)
Comment (pirapira) [reply backends/plonky3/tests/fixtures/FibTraceGen.lean]: done

File: Clean/Circomlib/Gates.lean (hunk 2 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: this is gone

File: Clean/Circomlib/Gates.lean (hunk 4 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: this is gone

File: Clean/Circomlib/Gates.lean (hunk 6 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: this is gone

File: Clean/Circomlib/Gates.lean (hunk 7 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: this is gone

File: Clean/Circomlib/Gates.lean (hunk 8 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: this is gone

File: Clean/Circuit/Basic.lean (hunk 10 above)
Comment (pirapira) [reply Clean/Circuit/Basic.lean]: this is gone.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 12 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]:
```
(env : VerifierEnvironment (F p))
```
works but I don't like it.

File: Clean/Circomlib/Gates.lean (hunk 9 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: this is gone.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 11 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: This is gone.

File: Clean/Gadgets/Bits.lean (hunk 13 above)
Comment (pirapira) [reply Clean/Gadgets/Bits.lean]: This change is gone.

File: Clean/Tables/Fibonacci32.lean (hunk 14 above)
Comment (pirapira) [reply Clean/Tables/Fibonacci32.lean]: The solution is to pass `(F := F p)` to `Soundness`.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 12 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: The solution is to pass `(p := p)`.

File: Clean/Circomlib/Gates.lean (hunk 5 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: This diff is gone.

File: Clean/Circomlib/Gates.lean (hunk 3 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: This is gone.

**Review by mitschabaude — APPROVED** [review]
applied some more changes towards minimizing the diff, I'm happy with this now!
